US07319104B2
2-[4-(2-{(5-Acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Hydrolysis of ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate with LiOH as per general procedure H afforded after a standard aqueous workup the title compound.

reactant | ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | C(C)(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C29H31F3N2O4
reactant | LiOH | [Li+].[OH-]
product | 2-[4-(2-{(5-Acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | C(C)(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C27H27F3N2O4
